US07767651B2
3) Synthesis of 2-[3-bromo-5-((4-ethylphenyl)methyl)thiophen-2-yl]ethanol
Under a nitrogen stream, to 4-bromo-2-((4-ethylphenyl)methyl)thiophene (2.80 g, 10.0 mmol) in anhydrous THF (40 ml), LDA (2.0 M, 5.50 ml, 11.0 ml) was added dropwise at −78° C. over 5 minutes. After the reaction mixture was stirred at 0° C. for 30 minutes, a THF solution of ethylene oxide (10 ml) was added dropwise at −78° C. The reaction mixture was warmed to room temperature and stirred for 3 hours. After addition of water, the reaction mixture was extracted with ether. The organic layer was washed with saturated aqueous sodium chloride, dried over anhydrous sodium sulfate, and then evaporated under reduced pressure to remove the solvent. The resulting residue was purified by silica gel column chromatography (developing solution=ethyl acetate:n-hexane (1:9)) to give the titled compound (2.55 g, 78%).

reactant | 4-bromo-2-((4-ethylphenyl)methyl)thiophene | 10.0 mmol, 2.80 g | BrC=1C=C(SC1)CC1=CC=C(C=C1)CC | C13H13BrS
reactant | ethylene oxide | 10 ml | C1CO1 | C2H4O
reactant | water | O | H2O
solvent | THF | 40 ml | C1CCOC1 | C4H8O
solvent | LDA | 2.0 M, 5.50 ml | [Li+].CC(C)[N-]C(C)C
product | 2-[3-bromo-5-((4-ethylphenyl)methyl)thiophen-2-yl]ethanol | 2.55 g, 78% | BrC1=C(SC(=C1)CC1=CC=C(C=C1)CC)CCO | C15H17BrOS
